US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(2-fluoro-4-(phenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 50 mL round-bottom flask, was placed a solution of 3-[(3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (100 mg, 0.21 mmol, 1.00 equiv) in methanol (20 mL), cyclopropanecarbaldehyde (45 mg, 0.64 mmol, 3.00 equiv), piperidine (9 mg, 0.11 mmol, 0.50 equiv), and dichloromethane (5 mL). The resulting solution was stirred for 12 h at room temperature and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 24 mg (24%) of the title compound as a white solid, LC-MS (ES, m/z): 524 [M+H]+. H-NMR (CDCl3, ppm): 8.397 (1H, s), 7.628˜7.427 (3H, m), 7.283˜7.231 (1H, m), 7.203˜7.124 (2H, m), 6.979˜6.866 (2H, m), 6.722 (1H, s), 5.717 (2H, s), 4.973 (1H, s), 4.8-3.1 (4H, m), 2.581˜2.045 (5H, m), 1.329˜1.228 (2H, m), 0.893 (2H, m).

reactant | 3-[(3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.21 mmol, 100 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H22FN7O2
reactant | cyclopropanecarbaldehyde | 0.64 mmol, 45 mg, 3.00 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.11 mmol, 9 mg, 0.50 equiv | N1CCCCC1 | C5H11N
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | (R)-2-(3-(4-amino-3-(2-fluoro-4-(phenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 24 mg, 24% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H26FN7O2
